US04788206
As described in Example 99, 3-pentyl-2-octenal (7.85 g) was treated with (carbomethoxymethylene)triphenylphosphorane (15.3 g) in carbon tetrachloride (100 mL) containing dichloromethane (50 mL) for 3 days at room temperature. The usual work up furnished 10.1 g of 5-pentyl-2,4-decadienoic acid methyl ester which was then saponified in a refluxing mixture of methanol (40 mL) and 2N NaOH (30 mL). After 1 hour the acid was isolated in the usual way to give 8.15 g of 5-pentyl-2,4-decadienoic acid as an oil.

reactant | 3-pentyl-2-octenal | 7.85 g | C(CCCC)C(=CC=O)CCCCC | C13H24O
reactant | (carbomethoxymethylene)triphenylphosphorane | 15.3 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-pentyl-2,4-decadienoic acid methyl ester | 10.1 g | COC(C=CC=C(CCCCC)CCCCC)=O | C16H28O2
